US04064247
(S)-3-Methylthio-9-nitro-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinolinium iodide (6 g.) is added to a solution of 3-aminopyridine (3 g.) in pyridine (100 cc.). After 6 hours at a temperature of about 20° C., the mixture is concentrated to dryness under reduced pressure (25 mm. Hg). The residue is dissolved in a mixture consisting of methylene chloride (300 cc.) and water (200 cc.). The organic phase is decanted, washed with water (3 × 200 cc.), dried over magnesium sulphate, filtered and then concentrated to dryness. The residue obtained is recrystallised from acetonitrile (40 cc.) to give (S)-9-nitro-3-(pyrid-3-ylimino)-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinoline (3.9 g.) in the form of white crystals melting at 144° C.

reactant | (S)-3-Methylthio-9-nitro-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinolinium iodide | 6 g | [I-].CSC=1SC[C@H]2[N+]1CC=1C=CC=C(C1C2)[N+](=O)[O-]
reactant | 3-aminopyridine | 3 g | NC=1C=NC=CC1 | C5H6N2
solvent | pyridine | 100 cc | N1=CC=CC=C1 | C5H5N
product | (S)-9-nitro-3-(pyrid-3-ylimino)-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinoline | 3.9 g | [N+](=O)([O-])C=1C=2C[C@@H]3N(CC2C=CC1)C(SC3)=NC=3C=NC=CC3 | C16H14N4O2S
